US08623889B2
Step 3: (1R,2R)-2-fluoro-N-(7-(4-methylpyridin-3-yl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide
A mixture of (1R,2R)-2-fluorocyclopropanecarboxylic acid (35 mg, 0.34 mmol), HATU (139 mg, 0.36 mmol), and N,N-diisopropylethylamine (89 mg, 0.68 mmol) in DMF (1 mL) was heated at 70° C. for 8 hours. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (25 mL). The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to provide a residue that was purified by reverse phase HPLC purification (5-85% ACN in water w/0.1% NH4OH, 14 min). Desired fractions were combined and evaporated in vacuo to afford the title compound as an off-white solid (25 mg, 46%). 1H NMR (400 MHz, DMSO) δ 11.20 (s, 1H), 9.50 (s, 1H), 9.34 (s, 1H), 8.68 (s, 1H), 8.68 (s, 1H), 8.50 (d, J=5.0 Hz, 1H), 8.19 (s, 1H), 7.39 (d, J=5.0 Hz, 1H), 5.08-4.85 (m, 1H), 2.44 (s, 3H), 2.30 (m, 1H), 1.72 (m, 1H), 1.23 (m, 1H). LCMS (Method E): RT=3.166 min, M+H+=323.2.

reactant | (1R,2R)-2-fluorocyclopropanecarboxylic acid | 0.34 mmol, 35 mg | F[C@H]1[C@H](C1)C(=O)O | C4H5FO2
reactant | HATU | 0.36 mmol, 139 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.68 mmol, 89 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (1R,2R)-2-fluoro-N-(7-(4-methylpyridin-3-yl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide | 25 mg, 46% | F[C@H]1[C@H](C1)C(=O)NC=1N=CC2=CC(=NC=C2C1)C=1C=NC=CC1C | C18H15FN4O
